2151-10-25 07:31:00 Physician Resident Progress Note
Chief Complaint: chest pain/abd pain
   24 Hour Events:
   continued on ASA, plavix, heparin, integrelin.
   asymptomatic throughout the day yesterday, no events overnight.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsLisinopril
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   feels well, (-) chest pain/pressure, (-) SOB, denies n/v/d/f/c.  (-)
   numbness/tingling/weakness
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Flowsheet Data as of  [**2151-10-25**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 71 (59 - 78) bpm
   BP: 106/58(70) {87/35(51) - 118/72(77)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,603 mL
                                                                  1,007 mL
   PO:
                                                                  1,520 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,083 mL
                                                                    767 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                  1,600 mL
   Urine:
                                                                  1,450 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,153 mL
                                                                   -593 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : ), dry inspiratory rales at bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   230 K/uL
   11.7 g/dL
   160 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   24 mg/dL
   106 mEq/L
   141 mEq/L
   36.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2151-10-24**]  05:30 AM
                             [**2151-10-25**]  04:59 AM
   WBC
   10.4
   9.4
   Hct
   38.4
   36.2
   Plt
   243
   230
   Cr
   1.1
   1.0
   TropT
   5.53
   Glucose
   162
   160
   Other labs: PT / PTT / INR:12.6/65.8/1.1, CK / CKMB /
   Troponin-T:1057/72/5.53, ALT / AST:31/152, Alk Phos / T Bili:65/0.6,
   Amylase / Lipase:/35, Differential-Neuts:77.7 %, Lymph:14.5 %, Mono:6.6
   %, Eos:0.8 %, Albumin:4.1 g/dL, LDH:571 IU/L, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   Pt is a pleasant 76 yo M w/ PMHx of CAD s/p MI w/ LV aneurysm, EF
   25-30% by pt report, NIDDM, TIMI score [**6-16**], who presents from an
   outside hospital after episode of chest/abdominal pressure,
   diaphoresis, dyspnea, with positive cardiac enzymes, and no ST
   elevations, consistent with NSTEMI.
   .
   # CORONARIES: Pt currently chest pain free, no new ST elevations or
   other EKG findings to suggest acute MI. No need for emergent
   revascularization or lysis at this time. Plan for diagnostic cath on
   Monday (today) if Pt continues to be hemodynamically stable, at which
   point can eval for percutaneous intervention vs potential CABG. If
   hemodynamically unstable or EKG changes concerning for evolving acute
   MI can activate cath lab.  Remained asymptomatic and Hemodynamically
   stable on [**2151-10-24**].
   -Cont ASA 81 mg qD
   -Cont plavix 75 mg
   -Holding home crestor. Starting atorvastatin 80 mg
   -PRN oxygen, nitro, morphine,
   - Continue Carvedilol
   - Continue integrillin
   - Maintain chest pain free using nitro, morphine PRN
    .
   # PUMP: Pt reports hx of CHF w/ EF of 25-30% although could not find
   records of this. Only ECHO is from [**2130**] w/ EF > 55%. Pt sx likely w/ a
   component of CHF as he experienced considerable relief w/ lasix, and
   was found to have CXR w/ pulmonary edema. At the moment Pt does not
   appear clinically volume overloaded.  Evidence of significant, chronic
   LV aneurysm on CXR, ECG, likely contributing to systolic dysfunction.
   - Continuing on coreg
   - Continue Eplerenone
   - Holding home mycardis, starting valsartan
   -ECHO as inpatient -> TTE today
   .
   # RHYTHM: No evidence of arrhythmias by hx or EKG
   - Continue coreg
   - Monitor on tele
   .
   #DM II
   - Holding metformin, Januvia
   - Started on regular insulin sliding scale
   .
   # Secondary Prevention
   - Will discuss diet, exercise, w/ patient prior to discharge. Will
   offer support for continued smoking cessation.
   .
   FEN: cardiac, diabetic diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with IV heparin
   -Pain management with  prn morphine
   -Bowel regimen with colace, senna
   .
   CODE: Full
   .
   COMM:Pt, wife [**Name (NI) 2316**] [**Telephone/Fax (1) 8235**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-10-23**] 11:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Cath showed severe 3 vd
   Will pursue viability study to determine utility of cabg
   Ultimately will require an ICD
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2151-10-25**] 17:09 ------